US04619940
5 g (0.0155 mole) of 1-(4-chlorophenyl)-2-(3,3-dimethyl-2-hydroxy-tetrahydrofuran-2-yl)-2-(1,2,4-triazol- 1-yl)-ethane are dissolved in 100 ml of toluene, 0.5 g of p-toluenesulphonic acid are added and the mixture is heated under reflux for 2 hours, using a water separator. The reaction mixture is cooled, washed with water, dried over sodium sulphate and concentrated in vacuo. The residue is purified by column chromatography (silica gel; ethyl acetate/cyclohexane=3:1). 2.8 g (59.6% of theory) of 1-(4-chlorophenyl)-2-(3,3-dimethyl-tetrahydrofuran-2-ylidene)-2-(1,2,4-triazol-1-yl)-ethane are obtained as form A of melting point 89° C. and 0.4 g (8.5% of theory) of 1-(4-chlorophenyl)-2-(3,3-dimethyl-tetrahydrofuran-2-ylidene)-2-(1,2,4-triazol-1-yl)-ethane are obtained as form B of melting point 175-177° C.

reactant | 1-(4-chlorophenyl)-2-(3,3-dimethyl-2-hydroxy-tetrahydrofuran-2-yl)-2-(1,2,4-triazol- 1-yl)-ethane | 0.0155 mole, 5 g | ClC1=CC=C(C=C1)CC(N1N=CN=C1)C1(OCCC1(C)C)O | C16H20ClN3O2
reactant | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-chlorophenyl)-2-(3,3-dimethyl-tetrahydrofuran-2-ylidene)-2-(1,2,4-triazol-1-yl)-ethane | 0.4 g, 8.5% | ClC1=CC=C(C=C1)CC(N1N=CN=C1)=C1OCCC1(C)C | C16H18ClN3O
